US07008759B2
5-Methylindoline was prepared from 5-methylindole using the procedure described for the preparation of 5-methoxyindoline. 5-Methylindole (11 g, 0.0835 mol) in glacial acetic acid (150 mL) in a 1 L 3-necked flask was reduced at 10–15° C. with sodium cyanoborohydride (15.8 g, 0.251 mol). Extraction with ethyl acetate provided 5-methylindoline (11 g, 0.0832 mol, 99% yield) as a thick oil which was used without further purification.

reactant | 5-methylindole | CC=1C=C2C=CNC2=CC1 | C9H9N
reactant | 5-methoxyindoline | COC=1C=C2CCNC2=CC1 | C9H11NO
reactant | 5-Methylindole | 0.0835 mol, 11 g | CC=1C=C2C=CNC2=CC1 | C9H9N
reactant | sodium cyanoborohydride | 0.251 mol, 15.8 g | C(#N)[BH3-].[Na+]
solvent | acetic acid | 150 mL | C(C)(=O)O | C2H4O2
product | 5-methylindoline | 0.0832 mol, 11 g, 99% yield | CC=1C=C2CCNC2=CC1 | C9H11N
